US03971819
B. 3-n-Butylamino-4-phenylsulphinyl-5-sulphamyl-benzoic acid
To a suspension of 3-n-butylamino-4-phenylthio-5-sulphamyl-benzoic acid (0.5 g) in acetic acid (5 ml), perhydrol (2.5 ml of 30% hydrogen peroxide in water) was added while stirring. The reaction mixture was stirred for an additional 24 hours at 30°C, after which the 3-n-butylamino-4-phenylsulphinyl-5-sulphamyl-benzoic acid was collected by suction and washed with aqueous acetic acid. After recrystallization from aqueous ethanol, the compound was obtained with a melting point of 203°-204°C (decomp.).

reactant | 3-n-butylamino-4-phenylthio-5-sulphamyl-benzoic acid | 0.5 g | C(CCC)NC=1C=C(C(=O)O)C=C(C1SC1=CC=CC=C1)S(N)(=O)=O | C17H20N2O4S2
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | perhydrol | 2.5 ml | OO | H2O2
product | 3-n-Butylamino-4-phenylsulphinyl-5-sulphamyl-benzoic acid | C(CCC)NC=1C=C(C(=O)O)C=C(C1S(=O)C1=CC=CC=C1)S(N)(=O)=O | C17H20N2O5S2
